US05962694
2-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoic acid
A solution of 2.8 g (18 mmol) of sodium dihydrogen phosphate dihydrate in 28 ml of water was added at 10-15° C. to a solution of 24 g (71 mmol) of 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde in 130 ml of acetonitrile. Then, 6.8 ml of 30% strength aqueous hydrogen peroxide solution and (in the course of one hour) 9.8 g (108 mmol) of sodium chlorite were added in succession. After the mixture had been stirred for a further hour, it was heated to room temperature. After it had been stirred for a further 16 hours, it was acidified using dilute hydrochloric acid. The aqueous solution was then extracted twice using ethyl acetate, whereupon the combined organic phases were washed in succession with concentrated aqueous thiosulfate solution, water and saturated sodium chloride solution, dried over magnesium sulfate and finally concentrated. Yield: 23 g; m.p.: 137-140° C.

reactant | sodium dihydrogen phosphate dihydrate | 18 mmol, 2.8 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde | 71 mmol, 24 g | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H7Cl2F3N2O2
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium chlorite | 108 mmol, 9.8 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 28 ml | O | H2O
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | 2-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H7Cl2F3N2O3
